US05767116
A mixture of 4-carbamoyl-1-(2,4-dinitrophenyl)pyridinium chloride (50 g, prepared in a similar manner to that described in Example 2), aniline (35 ml) and methanol (11) was stirred at ambient temperature for 48 hours. The resulting suspension was heated at 50° C. for 1 hour, then cooled and the solvent removed in vacuo. The solid residue was triturated with acetone (2×11) then collected by filtration to give 4-carbamoyl-1-phenylpyridinium chloride (33.24 g), mp 290°-292° C.

reactant | 4-carbamoyl-1-(2,4-dinitrophenyl)pyridinium chloride | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-]
reactant | aniline | 35 ml | NC1=CC=CC=C1 | C6H7N
solvent | methanol | CO | CH4O
product | 4-carbamoyl-1-phenylpyridinium chloride | 33.24 g | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=CC=CC=C1 | InChI=1S/C12H10N2O.ClH/c13-12(15)10-6-8-14(9-7-10)11-4-2-1-3-5-11;/h1-9H,(H-,13,15);1H
